US05977077
2-hydroxy-3,4,5-trimethoxybenzoic acid (1.14 g, 0.005 mol) and 1,2,3,4-tetramethoxybenzene (0.99 g, 0.005 mol) and 25 ml of a 9% solution of P2O5 in methanesulfonic acid were shaken in a 50 ml cylindrical glass tube with a Teflon-lined screw-cap at room temperature for 54 hours. The dark orange mixture was then poured onto crushed ice (150 ml). After melting, the product was extracted with methylene chloride (3×40 ml). After removal of the solvent, the residue was chromatographed on silica gel (30 g) with CH2Cl2. Of the three fractions obtained (the eluent was monitored by thin-layer chromatography), the middle one was uniform and left pure 2-hydroxy-3,4,5,2',3',4',5'-heptamethoxybenzophenone (0.51 g, 25%) as a yellow oil upon evaporation of the solvent. This was dissolved in 100 ml 75% alcohol whereafter 5 ml of 10N NaOH were added and the mixture was heated to boiling in a beaker for three hours; the volume was kept at 100 ml by occasional addition of water. The mixture was then transferred to a 250 ml round bottom flask and refluxed for another 17 hours. After cooling, suction filtration yielded 0.36 g of 2,3,4,5,6,7-hexamethoxyxanthone as a white product (small needles, matted, 77%). In a deprotection procedure, similar to the one described above for pentamethoxyxanthone, 0.42 g of the hexamethoxyxanthone produced 0.296 g of hexahydroxyxanthone (91%) as a pale yellow powder. It was found advantageous to circumvent the need for centrifugation by stirring the methylene chloride-water mixture (from the quenching of the BBr3 -solution) in a wide-mouthed container for several hours, leading to the evaporation of the methylene chloride; the mixture is then easily filterable.

reactant | 2-hydroxy-3,4,5-trimethoxybenzoic acid | 0.005 mol, 1.14 g | OC1=C(C(=O)O)C=C(C(=C1OC)OC)OC | C10H12O6
reactant | 1,2,3,4-tetramethoxybenzene | 0.005 mol, 0.99 g | COC1=C(C(=C(C=C1)OC)OC)OC | C10H14O4
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-hydroxy-3,4,5,2',3',4',5'-heptamethoxybenzophenone | 0.51 g | OC1=C(C(=O)C2=C(C(=C(C(=C2)OC)OC)OC)OC)C=C(C(=C1OC)OC)OC | C20H24O9
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 2,3,4,5,6,7-hexamethoxyxanthone | 0.36 g | COC1=CC=2C(C3=CC(=C(C(=C3OC2C(=C1OC)OC)OC)OC)OC)=O | C19H20O8
